US08071586B2
D) (S)-1-(3-Hydroxy-propyl)-3-methyl-piperazin-2-one
A solution of (S)-1-(3-benzyloxy-propyl)-3-methyl-piperazin-2-one (9.07 g, 34.6 mmol) in methanol (320 ml) was heated for 14 h at 70° C. under a hydrogen atmosphere (7 bar) in the presence of palladium (10% on activated charcoal, 7.36 g). After cooling, insoluble material was removed by filtration and the filtrate evaporated to produce the title compound (5.90 g, 99%). Colorless oil, MS (ISP)=173.1 (M+H)+.

reactant | (S)-1-(3-benzyloxy-propyl)-3-methyl-piperazin-2-one | 34.6 mmol, 9.07 g | C(C1=CC=CC=C1)OCCCN1C([C@@H](NCC1)C)=O | C15H22N2O2
solvent | methanol | 320 ml | CO | CH4O
catalyst | palladium | 7.36 g | [Pd] | Pd
product | (S)-1-(3-Hydroxy-propyl)-3-methyl-piperazin-2-one | 5.90 g, 99% | OCCCN1C([C@@H](NCC1)C)=O | C8H16N2O2
